* Z:\home\mkranich\OneDrive\studium\Master\ws\cems\prj_ADS1115_ic\zip_meiners\spice\dsm_l2\dsm_l2.asc
Vin Vin 0 SINE({Voff} {Vamp} {freq})
Vphi1 phi1 0 PULSE(0V {VDD} 0 100n 100n 2u 4.5u)
VDD Vdd 0 {VDD}
Ci1 vx1 N001 {Ci1} ic=0V
VCM Vcm 0 {VCM}
XX4 vx2 VCM vq VDD phi1 ideal_clocked_comparator
XX2 N001 VCM vx1 ideal_op_amp
Vphi2 phi2 0 PULSE(0V {VDD} 2.25u 100n 100n 2u 4.5u)
Ci2 vx2 N002 {Ci2} ic=0V
XX5 VDD 0 vq Vfb inv
XX6 N002 VCM vx2 ideal_op_amp
A§DFF vq 0 phi1 0 0 0 vd 0 DFLOP
CS1 N004 N003 {Cs1}
S1 N003 vin phi1 trip switch
S2 Vfb N003 phi2 trip switch
S3 N004 N001 phi2 trip switch
S4 VCM N004 phi1 trip switch
CS2 N006 N005 {Cs2}
S5 N005 vx1 phi2 trip switch
S6 Vfb N005 phi1 trip switch
S7 N006 N002 phi1 trip switch
S8 VCM N006 phi2 trip switch
Etrip1 trip 0 Vdd 0 0.5

* block symbol definitions
.subckt ideal_clocked_comparator Vinm Vinp Vout VDD Clock
E1 diff 0 Vinp Vinm 1
S3 sample diff tp Clock switch
S4 hold N001 Clock tp switch
C1 sample 0 100p
C2 hold 0 100p
Etp tp 0 Vdd 0 0.5
E2 N001 0 sample 0 1
B1 Vout 0 V=v(hold)>0?v(vdd):0
.model switch SW
.ic v(hold)=1 v(sample)=1
.ends ideal_clocked_comparator

.subckt ideal_op_amp Vinm Vinp Out
E1 Out 0 Vinp Vinm 1000Meg
.ends ideal_op_amp

.subckt inv Vdd Vss IN OUT
B1 Out 0 V=v(in)>v(vdd)/2?v(vss):v(vdd)
.ends inv

.tran 40m uic
.options plotwinsize=0
.param VDD=3.0
.param Vref=3.0
.param Vcm=VDD/2.0
.param Voff=Vcm
.param Vamp=1.4
.param freq=80
.param Cs1=1p Ci1=6p Cs2=1p Ci2=3p
.save v(vx1) v(vx2) v(phi1) v(phi2) v(vq) v(vd) v(vfb) v(vin)
* Save only node voltages of interest
.model switch sw ron=.1
* Switch control
* 10 periods for a better FFT
.backanno
.end
